US07534792B2
(2S,4S)-4-methoxypyrrolidine-2-carboxylic acid
A stirred solution of (2S,4S)-1-(benzyloxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (35.9 g, 135.4 mmol) in dry THF (870 mL) is treated under nitrogen with sodium hydride (11.78 g, 491 mmol) and methyl iodide (38.5 g, 271 mmol), using a procedure similar to that published in J. Med. Chem. 1988, 31, 875, except that reflux is carried out for 16 h. The crude extracted product of this alkylation reaction, (2S,4S)-1-(benzyloxycarbonyl)-4-methoxypyrrolidine-2-carboxylic acid, is then dissolved in methanol (200 mL), treated with 6.2 g of 20% palladium hydroxide on carbon, and stirred at room temperature overnight under 1 atmosphere of hydrogen. The reaction mixture is filtered, washed with methanol, and evaporated in vacuo. The resulting solid is suspended in dichloromethane (450 mL) and filtered to give 11.5 g (91%) of the pure title compound: MS: 146 (M+H)+; 500 MHz 1H NMR (d6-DMSO) δ

reactant | (2S,4S)-1-(benzyloxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 135.4 mmol, 35.9 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)O)C(=O)O | C13H15NO5
reactant | sodium hydride | 491 mmol, 11.78 g | [H-].[Na+]
reactant | methyl iodide | 271 mmol, 38.5 g | CI | CH3I
reactant | hydrogen | [H][H] | H2
solvent | THF | 870 mL | C1CCOC1 | C4H8O
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 6.2 g | [OH-].[OH-].[Pd+2]
product | (2S,4S)-4-methoxypyrrolidine-2-carboxylic acid | 11.5 g, 91% | CO[C@H]1C[C@H](NC1)C(=O)O | C6H11NO3
